.circuit
R1 6 5 50
R2 1 2 20
R3 5 7 40
R4 GND 3 30
R5 3 4 50
R6 4 8 100
R7 9 5 150
R8 4 3 1000
V1 1 GND dc 4
V2 2 GND dc 6
V3 6 1 dc 5
V4 5 4 dc 10
V5 9 6 dc 25
I1 2 5 dc 5
I2 4 7 dc 15
I3 8 4 dc 20
.end
